US07008950B1
5-Benzyloxy-3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran
Sodium hydride (60% liquid paraffin dispersion, 68 mg, 1.70 mmol) was added to a solution of 3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran-5-ol (0.5 g, 1.54 mmol) in N,N-dimethylformamide (20 mL) at 0° C., and the mixture was stirred for 10 minutes at the same temperature. To the reaction mixture was added benzyl bromide (290 mg, 1.70 mmol) and the mixture was stirred for further 30 minutes at room temperature. The reaction mixture was poured Into water (30 mL), and extracted twice with ethyl acetate. The organic layers were combined, washed with water, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was crystallized from methanol to obtain the title compound (380 mg, yield 60%).

reactant | Sodium hydride | 1.70 mmol, 68 mg | [H-].[Na+]
reactant | 3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran-5-ol | 1.54 mmol, 0.5 g | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)O)C)(C)C | C22H28O2
reactant | benzyl bromide | 1.70 mmol, 290 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 30 mL | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 5-Benzyloxy-3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydrobenzofuran | 380 mg, yield 60% | C(C1=CC=CC=C1)OC=1C(=C(C2=C(C(C(O2)(C)C)C2=CC=C(C=C2)C(C)C)C1C)C)C | C29H34O2
